US09388189B2
(S)-tert-Butyl (3-(benzyloxy)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
(S)-tert-Butyl (3-(benzyloxy)-1-(5-bromo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (0.6 g, 1.08 mmol) was dissolved in 36 mL anhydrous dimethylformamide in a pressure reactor vessel. 2,4,6-Trimethylboroxine (1.36 mL, 9.76 mmol), potassium carbonate (3 g, 21.68 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.13 g, 0.11 mmol) were added under argon conditions. The reaction mixture was heated at 120° C. for 2 h and then cooled and filtered through a plug of Celite, washing several times with ethyl acetate. The combinated filtrates were washed with water, saturated ammonium chloride solution and brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 20%, hexane-ethyl acetate) to give 0.45 g (85% yield) of the title compound as a white solid.

reactant | (S)-tert-Butyl (3-(benzyloxy)-1-(5-bromo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 1.08 mmol, 0.6 g | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)Br)NC(OC(C)(C)C)=O | C27H29BrN4O4
reactant | 2,4,6-Trimethylboroxine | 9.76 mmol, 1.36 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 21.68 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-Butyl (3-(benzyloxy)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.45 g, 85% yield | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)NC(OC(C)(C)C)=O | C28H32N4O4
